US09120757B2
A mixture of (R/S) 3-iodo-1-(oxan-2-yl)-1H-pyrazole-4-carbaldehyde (800 mg, 2.61 mmol, 1.00 equiv), 1-ethenyl-4-fluorobenzene (957 mg, 7.84 mmol, 3.00 equiv), Pd(PPh3)4 (302 mg, 0.26 mmol, 0.10 equiv) and potassium carbonate (1082 mg, 7.83 mmol, 3.00 equiv) in N,N-dimethylformamide (10 mL) was stirred under nitrogen at 100° C. overnight. The reaction was cooled to room temperature then quenched by the addition of 100 mL of water. The resulting mixture was extracted with 3×100 mL of ethyl acetate. The combined organic layers was washed with 3×100 mL of brine, dried over anhydrous sodium sulfate and concentrated under vacuum. The residue was purified on a silica gel column eluted with 1-15% ethyl acetate in petroleum ether to give 220 mg (28%) of (E)-3-(4-fluorostyryl)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazole-4-carbaldehyde as a yellow oil. LCMS (method D, ESI): RT=1.49 min, m/z=301.0 [M+H]+.

reactant | (R/S) 3-iodo-1-(oxan-2-yl)-1H-pyrazole-4-carbaldehyde | 2.61 mmol, 800 mg, 1.00 equiv | IC1=NN(C=C1C=O)C1OCCCC1 | C9H11IN2O2
reactant | 1-ethenyl-4-fluorobenzene | 7.84 mmol, 957 mg, 3.00 equiv | C(=C)C1=CC=C(C=C1)F | C8H7F
reactant | potassium carbonate | 7.83 mmol, 1082 mg, 3.00 equiv | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
catalyst | Pd(PPh3)4 | 0.26 mmol, 302 mg, 0.10 equiv | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (E)-3-(4-fluorostyryl)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazole-4-carbaldehyde | 220 mg, 28% | FC1=CC=C(/C=C/C2=NN(C=C2C=O)C2OCCCC2)C=C1 | C17H17FN2O2
